US07262201B1
A solution of 3-amino-5-(4-methoxyphenyl)-4H-pyrazole (74 mg, 0.39 mmol), (Synthesis, 1984, 3, 276), in isopropanol (3.5 ml) was added to 4-chloro-6-methoxy-7-((1-methylpiperidin-4-yl)methoxy)quinazoline (110 mg, 0.34 mmol) followed by 5M hydrogen chloride in isopropanol (78 μl, 0.39 mmol) and the mixture was heated at reflux for 1.5 hours. After cooling to 5° C., the precipitate was collected by filtration washed with isopropanol, followed by ether and dried under vacuum at 60° C. to give 4-(5-(4-methoxyphenyl)pyrazol-3-ylamino)-6-methoxy-7-((1-methylpiperidin-4-yl)methoxy)quinazoline hydrochloride (133 mg, 72%).

reactant | 3-amino-5-(4-methoxyphenyl)-4H-pyrazole | 0.39 mmol, 74 mg | NC1=NN=C(C1)C1=CC=C(C=C1)OC | C10H11N3O
reactant | 4-chloro-6-methoxy-7-((1-methylpiperidin-4-yl)methoxy)quinazoline | 0.34 mmol, 110 mg | ClC1=NC=NC2=CC(=C(C=C12)OC)OCC1CCN(CC1)C | C16H20ClN3O2
reactant | hydrogen chloride | 5M | Cl | ClH
solvent | isopropanol | 3.5 ml | C(C)(C)O | C3H8O
solvent | isopropanol | 0.39 mmol, 78 μl | C(C)(C)O | C3H8O
product | 4-(5-(4-methoxyphenyl)pyrazol-3-ylamino)-6-methoxy-7-((1-methylpiperidin-4-yl)methoxy)quinazoline hydrochloride | 133 mg, 72% | Cl.COC1=CC=C(C=C1)C1=CC(=NN1)NC1=NC=NC2=CC(=C(C=C12)OC)OCC1CCN(CC1)C | InChI=1S/C26H30N6O3.ClH/c1-32-10-8-17(9-11-32)15-35-24-13-22-20(12-23(24)34-3)26(28-16-27-22)29-25-14-21(30-31-25)18-4-6-19(33-2)7-5-18;/h4-7,12-14,16-17H,8-11,15H2,1-3H3,(H2,27,28,29,30,31);1H
